US04079066
2,2-Dimethyl-7-(2-dimethylaminoethoxy)-4-(4-methyl-1-naphthyl)-2H-chromene
To a stirred solution of butyl lithium (12.5 ml, 0.03 mole, 2.4M solution in hexane) was added dropwise over 20 minutes a solution of 1-bromo-4-methylnaphthalene (6.63 g, 0.03 mole) in dry tetrahydrofuran (10 ml), the reaction mixture being cooled throughout by a water bath. After being stirred at ambient temperature for 15 minutes the resulting suspension was treated with a solution of 2,2-dimethyl-7-(2-dimethylaminoethoxy)-4-chromanone (4.0 g, ~0.015 mole) in dry tetrahydrofuran (15 ml), the precipitate almost immediately dissolving to give a golden yellow solution. The resulting solution was stirred under reflux for 5 hours, then left overnight at ambient temperature, stirred under reflux for a further 7 hours and again left overnight at ambient temperature. After work up with acid, by an analogous process to that described in Example 1 and chromatography on alumina in 8% ether - 92% petroleum ether (b.p. 60°-80°) the title compound was obtained as a colourless oil (0.65 g, 11%). Its hydrochloride salt was m.p. 215°-216.5° C.

reactant | butyl lithium | 0.03 mole, 2.4M, 12.5 ml | C(CCC)[Li]
reactant | 1-bromo-4-methylnaphthalene | 0.03 mole, 6.63 g | BrC1=CC=C(C2=CC=CC=C12)C | C11H9Br
reactant | 2,2-dimethyl-7-(2-dimethylaminoethoxy)-4-chromanone | ~0.015 mole, 4.0 g | CC1(OC2=CC(=CC=C2C(C1)=O)OCCN(C)C)C | C15H21NO3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2,2-Dimethyl-7-(2-dimethylaminoethoxy)-4-(4-methyl-1-naphthyl)-2H-chromene | CC1(OC2=CC(=CC=C2C(=C1)C1=CC=C(C2=CC=CC=C12)C)OCCN(C)C)C | C26H29NO2
